US06949543B2
Potassium carbonate and ethyl bromoacetate were added to DMF solution of aniline and stirred under heating. After adding water and ethyl acetate to the reaction mixture, the organic layer was separated, washed and dried, and then the solvent was evaporated under a reduced pressure to obtain a crude product. This was dissolved in chloroform, mixed with TEA, 4-fluorobenzoyl chloride and dimethylaminopyridine (DMAP) and stirred. After adding 1 M hydrochloric acid to the reaction solution, the organic layer was separated, washed and dried, and then the solvent was evaporated under a reduced pressure. By purifying the thus obtained crude product by a silica gel column chromatography (to be referred to as SCG hereinafter), ethyl [(4-fluorobenzoyl)phenylamino]acetate (colorless oil) was obtained.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl [(4-fluorobenzoyl)phenylamino]acetate | FC1=CC=C(C(=O)N(C2=CC=CC=C2)CC(=O)OCC)C=C1 | C17H16FNO3
